US09428528B2
Step 3 Preparation of 2,2-dichloro-N-((1R,2S)-3-fluoro-1-(4-(5-fluoro-6-(methylsulfonamidomethyl)pyridin-3-yl)phenyl)-1-hydroxypropan-2-yl)acetamide
(4S,5R)-tert-butyl 5-(4-(5-fluoro-6-(methylsulfonamidomethyl)pyridin-3-yl)phenyl)-4-(fluoromethyl)-2,2-dimethyloxazolidine-3-carboxylate (890 mg, 1.74 mmol) is dissolved in CH2Cl2 (20 mL), cooled to 5° C., and treated with trifluoroacetic acid (4 mL), stirred for 1 h at room temperature, diluted with toluene, concentrated to an oil. The oil is basified with aqueous sodium bicarbonate, extracted with ethyl acetate, dried, filtered, concentrated to an oil. The oil is dissolved in methanol (8 mL) and treated with diisopropylethyl amine (0.455 mL, 2.6 mmol) and methyl dichloroacetate (305 mg, 2.1 mmol), stirred at 60° C. for 18 hours, then cooled, and chromatographed on silica eluting with ethyl acetate in heptane to give the title compound. 1H NMR (400 MHz, DMSO-d6) 2.94 (s, 3H), 4.15-4.45 (m, 4H), 4.55-4.75 (m, 1H), 4.92 (t, 1H, J=3.54 Hz), 6.01 (d, 1H, J=4.29 Hz), 6.52 (s, 1H), 7.49 (d, 2H, J=8.08 Hz), 7.59 (t, 1H, J=5.94 Hz), 7.77 (d, 2H, J=8.34 Hz), 8.07 (m, 1H), 8.63 (d, 2H, J=8.84 Hz), 8.77 (s, 1H). m/z (CI) M+H 465.

reactant | (4S,5R)-tert-butyl 5-(4-(5-fluoro-6-(methylsulfonamidomethyl)pyridin-3-yl)phenyl)-4-(fluoromethyl)-2,2-dimethyloxazolidine-3-carboxylate | 1.74 mmol, 890 mg | FC=1C=C(C=NC1CNS(=O)(=O)C)C1=CC=C(C=C1)[C@@H]1[C@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CF | C24H31F2N3O5S
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropylethyl amine | 2.6 mmol, 0.455 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl dichloroacetate | 2.1 mmol, 305 mg | ClC(C(=O)OC)Cl | C3H4Cl2O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,2-dichloro-N-((1R,2S)-3-fluoro-1-(4-(5-fluoro-6-(methylsulfonamidomethyl)pyridin-3-yl)phenyl)-1-hydroxypropan-2-yl)acetamide | ClC(C(=O)N[C@@H]([C@H](O)C1=CC=C(C=C1)C=1C=NC(=C(C1)F)CNS(=O)(=O)C)CF)Cl | C18H19Cl2F2N3O4S
